US06184375B2
2,4-bis[2-hydroxy-4-(1-ethoxycarbonylethoxy)phenyl]-6-[2,4-di-(1-ethoxycarbonylethoxy)phenyl]-1,3,5-triazine (Compound 5).
A mixture of 15.0 g (0.037 mol) of 2,4,6-tris(2,4-dihydroxyphenyl)-1,3,5-triazine and 80 ml of diglyme (Fluka 99.5%) is admixed under nitrogen in succession with 9.2 g (0.139 mol) of pulverized KOH (Fluka, 85%), 0.3 g (0,002 mol of potassium iodide (Fluka, 99.5% ) and 29.5 g (0.163 mol) of ethyl 2-bromopropionate (Fluka, 98%). The mixture is heated with stirring at 108° C. for 19 h. The inorganic precipitate is filtered off hot; the solvent is removed on a rotary evaporator. The crude product is taken up in 100 ml of ethyl acetate (T=60° C. ) and the mixture is filtered through a silica gel bed (silica gel 60, 230-400 mesh, Ø=6 cm, h=4 cm) and with 300 ml of ethyl acetate.

reactant | 2,4,6-tris(2,4-dihydroxyphenyl)-1,3,5-triazine | 0.037 mol, 15.0 g | OC1=C(C=CC(=C1)O)C1=NC(=NC(=N1)C1=C(C=C(C=C1)O)O)C1=C(C=C(C=C1)O)O | C21H15N3O6
reactant | KOH | 0.139 mol, 9.2 g | [OH-].[K+]
reactant | potassium iodide | 0,002 mol | [I-].[K+]
reactant | ethyl 2-bromopropionate | 0.163 mol, 29.5 g | BrC(C(=O)OCC)C | C5H9BrO2
solvent | diglyme | 80 ml | COCCOCCOC | C6H14O3
product | 2,4-bis[2-hydroxy-4-(1-ethoxycarbonylethoxy)phenyl]-6-[2,4-di-(1-ethoxycarbonylethoxy)phenyl]-1,3,5-triazine | OC1=C(C=CC(=C1)OC(C)C(=O)OCC)C1=NC(=NC(=N1)C1=C(C=C(C=C1)OC(C)C(=O)OCC)O)C1=C(C=C(C=C1)OC(C)C(=O)OCC)OC(C)C(=O)OCC | C41H47N3O14
